US07022708B2
A mixture of 5-fluoroindole (1.0 g, 7.4 mmole), 4-chlorobenzenesulfonyl chloride (1.6 g, 7.6 mmole), tetra-n-butylammonium hydrogen sulfate (0.05 g), 4N sodium hydroxide (5 mL, 20 mmol), and toluene (6 mL) was stirred at room temperature for 15 h. The mixture was diluted with 10 mL water and extracted with 25 mL ethyl acetate. The organic phase was washed with 10 mL water, 10 mL saturated sodium chloride, and then dried (anhydrous magnesium sulfate). The solution was concentrated under reduced pressure. The residue was recrystallized from ethyl ether/hexane to provide 1-(4-Chlorobenzenesulfonyl)-5-fluoro-1H-indole (1.74 g) m.p. 108–109°.

reactant | 5-fluoroindole | 7.4 mmole, 1.0 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | 4-chlorobenzenesulfonyl chloride | 7.6 mmole, 1.6 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | sodium hydroxide | 20 mmol, 4N, 5 mL | [OH-].[Na+]
reactant | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium hydrogen sulfate | 0.05 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 10 mL | O | H2O
product | 1-(4-Chlorobenzenesulfonyl)-5-fluoro-1H-indole | 1.74 g | ClC1=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)F | C14H9ClFNO2S
